US04665202
As in example 13 but starting from 3.16 g of 4-chloro-3-formyl-8-methoxy-thioflav-3-ene, 250 ml tert-butanol and 60 ml 2-methyl-2-butene. After work up the crude oil is crystallised in a mixture of n-hexane and ethyl acetate. Pure 3-carboxy-4-chloro-8-methoxy-thioflav-3-ene is obtained as yellow crystals; m.p. 207°-210° C.-TLC (SiO2, CH2Cl2 /Acetone/HCOOH 18/1/1): Rf =0.45.

reactant | 4-chloro-3-formyl-8-methoxy-thioflav-3-ene | 3.16 g | ClC1=C(C(SC2=C(C=CC=C12)OC)C1=CC=CC=C1)C=O | C17H13ClO2S
reactant | 2-methyl-2-butene | 60 ml | CC(C)=CC | C5H10
reactant | tert-butanol | 250 ml | C(C)(C)(C)O | C4H10O
product | 3-carboxy-4-chloro-8-methoxy-thioflav-3-ene | C(=O)(O)C=1C(SC2=C(C=CC=C2C1Cl)OC)C1=CC=CC=C1 | C17H13ClO3S
